US08957070B2
Diethyl [(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-4-yl)methyl]malonate
To a suspension of sodium hydride (60% in oil, 0.15 g) in N,N-dimethylformamide (10 mL) was added diethyl malonate (0.53 g) at 0° C., and the mixture was stirred for 30 min. To the reaction mixture was added N-{2-[4-(chloromethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide (0.45 g) at 0° C., and the mixture was stirred at room temperature for 3 hr. To the reaction mixture was added 10% citric acid was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained residue was subjected to silica gel column chromatography and the title compound (0.43 g, yield 72%) was obtained as a colorless oil from a fraction eluted with ethyl acetate-hexane (2:3, volume ratio).

reactant | sodium hydride | 0.15 g | [H-].[Na+]
reactant | diethyl malonate | 0.53 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | N-{2-[4-(chloromethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 0.45 g | ClCC=1N=C(SC1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C17H14ClN3O2S3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | Diethyl [(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-4-yl)methyl]malonate | 0.43 g, yield 72% | CN(C=1C=CC=C2C=C(NC12)C=1SC=C(N1)CC(C(=O)OCC)C(=O)OCC)S(=O)(=O)C=1SC=CC1 | C24H25N3O6S3
